* official_pure_rawps_wrapped_models.lib
* Generated by /mnt/data/build_official_pure_rawps.py
* Strict pure-vendor path using raw vendor files. Requires ngspice startup file .spiceinit: set ngbehavior=ps
.param TEMP=27 TNOM=27
.options TEMP=27 TNOM=27
.func clip(x, lo, hi) { min(max(x, lo), hi) }
.model D5A_SCH D(IS=1e-8 N=1.05 RS=0.03 CJO=200p BV=60 IBV=1m TT=20n)
.model DGEN D(IS=1e-14 N=1.8 RS=0.2 CJO=3p TT=10n)
.include "vendor_official/AD633/ad633.cir"
.include "vendor_official/OPA548/sbom088c/OPA548.LIB"
.include "vendor_official/OPA1656/sbomaw6c/OPA1656.LIB"
.include "vendor_official/INA149/sbomc47/ina149.lib"

* --- AD633: raw vendor wrapper around AD633 from vendor_official/AD633/ad633.cir
.SUBCKT AD633_NG_SURR X1 X2 Y1 Y2 VNEG Z W VPOS PARAMS: BW=1e6 ROUT=50 VHEAD=1.2 RIN=10Meg CIN=3p
XOFF X1 X2 Y1 Y2 VNEG Z W VPOS AD633
.ENDS AD633_NG_SURR
* --- OPA548: raw vendor wrapper around OPA548 from vendor_official/OPA548/sbom088c/OPA548.LIB
.SUBCKT OPA548_NG_SURR INP INN OUT VPOS VNEG ILIM PARAMS: A0=1e5 GBW=1e6 ROUT=0.08 IOUT=3.0 VHEAD=2.0 RIN=1e9 CIN=4p
RES_EN ES VPOS 100k
XOFF INP INN ILIM VNEG VPOS OUT ES OPA548
.ENDS OPA548_NG_SURR
* --- OPA1656: raw vendor wrapper around OPA1656 from vendor_official/OPA1656/sbomaw6c/OPA1656.LIB
.SUBCKT OPA1656_NG_SURR INP INN OUT VPOS VNEG PARAMS: A0=3.16e7 GBW=53e6 ROUT=12 IOUT=0.1 VHEAD=0.25 RIN=1e12 CIN=5p
RBINP BINP 0 1Meg
RBF BOUT BINN 1m
RBLOAD BOUT 0 1Meg
XOFF INP INN VPOS VNEG OUT OPA1656
.ENDS OPA1656_NG_SURR
* --- INA149: raw vendor wrapper around INA149 from vendor_official/INA149/sbomc47/ina149.lib
.SUBCKT INA149_NG_SURR INP INN OUT VPOS VNEG PARAMS: GAIN=1.0 BW=500k CMRRDB=100 OFFSET=0 ROUT=50 VHEAD=1.5 RIN=1e9 CIN=3p
RREFA REFA 0 1m
RREFB REFB 0 1m
XOFF INP INN REFA REFB VPOS VNEG OUT INA149
.ENDS INA149_NG_SURR

* DAC command generator remains local control source.
.SUBCKT DAC_STM32G431_SURR OUT VDD VSS PARAMS: R0=50.5 A1=49.5 FM1=100 PH1=0 A2=0 FM2=317 PH2=0 RMIN=1 RMAX=100 BW=20k
.param TWOPI=6.283185307179586
.func Rraw(t) { R0 + A1*sin(TWOPI*FM1*t+PH1) + A2*sin(TWOPI*FM2*t+PH2) }
.func Rt(t)   { min(max(Rraw(t), RMIN), RMAX) }
BRAW NDACRAW 0 V = { 3.0*(Rt(time)-1)/99 }
RDAC NDACRAW OUT 1k
CDAC OUT 0 {1/(2*3.141592653589793*1k*BW)}
ROUTL OUT 0 10Meg
.ENDS DAC_STM32G431_SURR